US08536160B2
3(R)-Pyrrolidinyloxyamine dihydrochloride (III-e)
Benzophenone O—[(R)-3-pyrrolidinyl]oxime (13.0 g) was suspended in 6N HCl (250 mL) and the mixture was refluxed for 2 h. After cooling, the reaction was extracted with Et2O. The aqueous layer was evaporated to give a crude brown solid which was treated with 0.34 g of activated carbon in absolute EtOH (255 mL) at reflux for 2 h. The solid obtained after evaporation was crystallized with 96% EtOH (40 mL) to give the title compound III-e (2.98 g, 72%), as an off white solid. 1H-NMR (300 MHz, DMSO-d6, ppm from TMS): δ 11.22 (3H, bb), 9.74 (1H, bb), 9.54 (1H, bb), 4.98 (1H, m), 3.60-3.00 (4H, m), 2.40-2.00 (2H, m).

reactant | Benzophenone O—[(R)-3-pyrrolidinyl]oxime | 13.0 g | N1C[C@@H](CC1)ON=C(C1=CC=CC=C1)C1=CC=CC=C1 | C17H18N2O
reactant | HCl | 6N, 250 mL | Cl | ClH
solvent | EtOH | 255 mL | CCO | C2H6O
product | 3(R)-Pyrrolidinyloxyamine dihydrochloride | Cl.Cl.N1C[C@@H](CC1)ON | InChI=1S/C4H10N2O.2ClH/c5-7-4-1-2-6-3-4;;/h4,6H,1-3,5H2;2*1H/t4-;;/m1../s1
